US08022223B2
N-(5-(2-chlorophenylthio)-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine hydrochloride
Prepared according to the method of Example 13, using 5-bromo-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine and 2-chlorobenzenethiol. 1H NMR (d6-DMSO) δ 8.26 (d, 1H), 7.49 (dd, 1H), 7.42 (t, 2H), 7.29 (d, 1H), 7.27-7.12 (m, 4H), 6.96 (dd, 1H), 6.80 (s, 1H), 2.30 (s, 3H); Mass spectrum (esi) m/z=426.4 (M+H—HCl).

reactant | 5-bromo-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | C15H12BrN3OS
reactant | 2-chlorobenzenethiol | ClC1=C(C=CC=C1)S | C6H5ClS
product | N-(5-(2-chlorophenylthio)-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine hydrochloride | Cl.ClC1=C(C=CC=C1)SC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | InChI=1S/C21H16ClN3OS2.ClH/c1-14-13-27-21(24-14)25-20-18(26-15-7-3-2-4-8-15)11-16(12-23-20)28-19-10-6-5-9-17(19)22;/h2-13H,1H3,(H,23,24,25);1H
